US05773618
1-(3-Chloropropionyl)-6-fluoroindoline
260 mg (2.2 mmol) of 6-amino-1-(3-chloropropionyl)indoline (prepared as described in Preparation 6) were dissolved in 10 ml of methylene chloride, and 450 mg (2.0 mmol) of nitrosonium tetrafluoroborate were added to the resulting solution while ice-cooling so that the internal temperature was maintained at 10° C. or lower. The mixture was then stirred while ice-cooling for 30 minutes. At the end of this time, 10 ml of 1,2-dichlorobenzene were added to the mixture, and the mixture was stirred at 90° C. for 1 hour. The solvent was then removed from the reaction mixture by distillation under reduced pressure and the resulting residue was purified by silica gel column chromatography, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 97 mg (0.39 mmol) of the title compound as crystals (yield: 20%).

reactant | 6-amino-1-(3-chloropropionyl)indoline | 2.2 mmol, 260 mg | NC1=CC=C2CCN(C2=C1)C(CCCl)=O | C11H13ClN2O
reactant | nitrosonium tetrafluoroborate | 2.0 mmol, 450 mg | F[B-](F)(F)F.N#[O+]
reactant | 1,2-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Chloropropionyl)-6-fluoroindoline | 0.39 mmol, 97 mg, yield: 20% | ClCCC(=O)N1CCC2=CC=C(C=C12)F | C11H11ClFNO
